US04921939
Synthesis of N-[N-cyclohexylmethylamino(4-carboxyphenylimino)methyl]-2-aminoethanoic acid
This compound is obtained (yield 79%; melting point 164° C.), by saponification of N-[N-cyclohexylmethylamino(4-caraboxyphenylimino)methyl]-2-aminoethanoic acid (melting point 163° C.) in a 1N sodium hydroxide solution, whereby the former was prepared from glycine and N-cyclohexylmethyl-N'-(4-methoxycarbonylphenyl)-S-methylisothiourea according to the experimental procedure described in Example 2.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | N-cyclohexylmethyl-N'-(4-methoxycarbonylphenyl)-S-methylisothiourea | C1(CCCCC1)CNC(SC)=NC1=CC=C(C=C1)C(=O)OC | C17H24N2O2S
product | N-[N-cyclohexylmethylamino(4-carboxyphenylimino)methyl]-2-aminoethanoic acid | yield 79% | C1(CCCCC1)CNC(NCC(=O)O)=NC1=CC=C(C=C1)C(=O)O | C17H23N3O4
